US09062092B2
Compound 53b. (S)-1-[(S)-2-(2-Cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide
((S)-2-{(S)-3-[(R)-1-(7-Bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester, (1.07 g, 2.00 mmol) was suspended in dichloromethane (20 mL) and the mixture was cooled to 0° C. with stirring. 4 M Hydrogen chloride in 1,4-dioxane (11 mL) was added and the reaction mixture stirred for 90 minutes and then evaporated. Residual water was azeotroped off with toluene and the residue was suspended in dichloromethane (20 mL) and cyclopropyl-hydroxy-acetic acid (255 mg, 2.20 mmol) was added. The mixture was cooled to 0° C. with stirring and N,N-diisopropylethylamine (775 mg, 1.05 mL, 6.00 mmol) was added followed by (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (1.06 g, 2.40 mmol). The reaction was allowed to warm to ambient temperature and stirred for 18 h. 1M Hydrochloric acid was added and the organic layer was washed with saturated sodium bicarbonate solution, passed through a hydrophobic frit and evaporated. The residue was purified by silica gel chromatography eluting with a gradient of ethyl acetate/methanol 1:0 to 9:1 to afford the title compound (328 mg) as a white foam. The original aqueous extracts were re-extracted with dichloromethane/methanol (9:1, 2×) and the organic extracts dried over anhydrous sodium sulfate, filtered and evaporated. The residue purified by silica gel chromatography eluting with a gradient of ethyl acetate/methanol 1:0 to 17:3 to afford the title compound (378 mg) as a white foam. The two foams were combined (706 mg, 66%). 1H NMR (300 MHz, CDCl3) δ 0.46-0.73 (m, 4H), 1.04-1.18 (m, 1H), 1.49-1.59 (m, 6H), 1.53-1.78 (m, 2H), 1.95-2.04 (m, 1H), 2.25-2.34 (m, 1H), 2.64-2.82 (m, 1H), 3.44-3.55 (m, 2H), 3.60-3.84 (m, 1H), 4.50-4.60 (m, 1H), 5.23-5.33 (m, 1H), 5.48-5.55 (m, 1H), 7.36-7.41 (m, 1H), 7.62-7.73 (m, 2H), 8.13-8.19 (m, 2H), 8.47-8.51 (m, 1H). LCMS (m/z) [M+H] 532.0, 534.0 Tr=2.07 min. LCMS (m/z) 532.0, 533.9 [M+H], Tr=2.12 min.

reactant | ((S)-2-{(S)-3-[(R)-1-(7-Bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 2.00 mmol, 1.07 g | C(C)(C)(C)OC(N[C@H](C(=O)N1N[C@@H](CCC1)C(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O)C)=O | C24H32BrN5O4
reactant | Hydrogen chloride | 4 M | Cl | ClH
reactant | cyclopropyl-hydroxy-acetic acid | 2.20 mmol, 255 mg | C1(CC1)C(C(=O)O)O | C5H8O3
reactant | N,N-diisopropylethylamine | 6.00 mmol, 1.05 mL, 775 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 2.40 mmol, 1.06 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 11 mL | O1CCOCC1 | C4H8O2
product | (S)-1-[(S)-2-(2-Cyclopropyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 328 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC(C(O)C1CC1)=O)=O | C24H30BrN5O4
